US07402592B2
Ethyl N-(hydroxymethyl)cyclohex-3-en-1-ylmethylcarbamate
A sample of ethyl cyclohex-3-en-1-ylmethylcarbamate (5.1 g, 28 mmol) in 500 mL of THF was treated with paraformaldehyde (16.7 g, 560 mmol), potassium carbonate (7.8 g, 56 mmol) and cesium carbonate (1.8 g, 5.6 mmol). The mixture was stirred vigorously and heated under reflux for 4 h. The mixture was cooled, filtered and concentrated under reduced pressure. The residue was column chromatographed on silica gel, using 3:1 hexane/ethyl acetate as eluent, to give a colorless oil (3.6 g, 61%).

reactant | ethyl cyclohex-3-en-1-ylmethylcarbamate | 28 mmol, 5.1 g | C1(CC=CCC1)CNC(OCC)=O | C10H17NO2
reactant | paraformaldehyde | 560 mmol, 16.7 g | C=O | CH2O
reactant | potassium carbonate | 56 mmol, 7.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | cesium carbonate | 5.6 mmol, 1.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | Ethyl N-(hydroxymethyl)cyclohex-3-en-1-ylmethylcarbamate | 3.6 g, 61% | OCN(C(OCC)=O)CC1CC=CCC1 | C11H19NO3
